US07064124B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(methoxycarbonylmethyloxy)benzoyl]morpholine
N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(methoxycarbonylmethyloxy)benzoyl]morpholine (0.240 g, 0.478 mmol) was dissolved in a mixed solution of acetonitrile (12 ml) and water (4 ml) and after adding thereto CAN (0.655 g, 1.20 mmol) at room temperature, the solution was stirred at room temperature for 1 hour. The reaction solution was diluted with water and then extracted with ether. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (hexand:ethyl acetate=1:3) to obtain the titled compound (0.180 g, 0.381 mmol, 80%).

reactant | N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(methoxycarbonylmethyloxy)benzoyl]morpholine | 0.478 mmol, 0.240 g | COC=1C(=C(CC=2C=CC(=C(C(=O)N3CCOCC3)C2)OCC(=O)OC)C(=C(C1OC)OC)OC)C | C26H33NO9
reactant | CAN | 1.20 mmol, 0.655 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
solvent | water | 4 ml | O | H2O
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(methoxycarbonylmethyloxy)benzoyl]morpholine | 0.381 mmol, 0.180 g, 80% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)N2CCOCC2)C1)OCC(=O)OC)C)=O | C24H27NO9
